US04628115
A mixture of 9.77 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 10.90 g of 1-(tetrahydro-2-pyranoxy)-6-chloro-2-hexyne [R. B. Moffet, P. H. Seay and W. R. Reid, J. Med. Pharm. Chem., 14, 1075 (1971)]. 10.43 g of anhydrous potassium carbonate and 8.36 g of potassium iodide in 250 ml of anhydrous acetone was stirred at reflux for 18 hours. Anhydrous dimethyl formamide (100 ml) was added and reflux with stirring was continued for 52 hours. The solvent was removed in vacuo, the residue was stirred with hexane and filtered. The filtrate was concentrated in vacuo to an oil which was dissolved in 300 ml of methanol and 200 ml of 3N hydrochloric acid and heated on the steam bath for 45 minutes. As the solvent was being removed in vacuo, crystallization occurred. Water was added and the solid was filtered to give 11.78 g, mp 88°-90°, (81% yield) of 1- [2-hydroxy-4-[(6-hydroxy-4-hexynyl)oxy]-3-propylphenyl]ethanone, the titled compound.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 9.77 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | 1-(tetrahydro-2-pyranoxy)-6-chloro-2-hexyne | 10.90 g | O1C(CCCC1)OCC#CCCCCl | C11H17ClO2
reactant | potassium carbonate | 10.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 8.36 g | [I-].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | 1- [2-hydroxy-4-[(6-hydroxy-4-hexynyl)oxy]-3-propylphenyl]ethanone | 81% yield | OC1=C(C=CC(=C1CCC)OCCCC#CCO)C(C)=O | C17H22O4
